US08304557B2
N-[2-chloro-5-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)phenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide
In the same manner as in Example 24 and using 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride (89.2 mg, 0.562 mmol), N,N-dimethylacetamide (5 mL) and N-[6-(3-amino-4-chlorophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide (170 mg, 0.495 mmol) as starting materials, the title compound (92.2 mg, 40%) was obtained as a white solid.

reactant | 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride | 0.562 mmol, 89.2 mg | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
reactant | N-[6-(3-amino-4-chlorophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide | 0.495 mmol, 170 mg | NC=1C=C(OC=2C=CC=3N(C2)N=C(N3)NC(=O)C3CC3)C=CC1Cl | C16H14ClN5O2
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | N-[2-chloro-5-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)phenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide | 92.2 mg, 40% | ClC1=C(C=C(C=C1)OC=1C=CC=2N(C1)N=C(N2)NC(=O)C2CC2)NC(=O)C2=CC(=NN2C)C | C22H20ClN7O3
